US07176227B2
Synthesis of 4-Boc-aminomethylaniline
In dichloromethane (40 ml), 4-aminobenzylamine (manufactured by Tokyo Kasei Kogyo Co., Ltd.) was dissolved. Then, the solution was added with triethylamine (2.9 ml) and cooled to 0° C. To the solution, a solution of di-t-butyl dicarbonate (3.98 g) in dichloromethane (2.0 ml) was added dropwisely and then the whole was stirred at room temperature for 3 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was dissolved in chloroform and then washed with a 1 mol/l sodium hydroxide aqueous solution and saturated saline solution, followed by drying with anhydrous sodium sulfate. After filtration, the solvent was distilled off under reduced pressure and the residue was then dried under vacuum, thereby obtaining the subject compound (3.90 g) as a yellow solid.

reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 3.98 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-aminobenzylamine | NC1=CC=C(CN)C=C1 | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 4-Boc-aminomethylaniline | 3.90 g | C(=O)(OC(C)(C)C)C1=CC=C(NCN)C=C1 | C12H18N2O2
